US07375093B2
To a stirred solution of N-(1-hydroxymethyl-1,2-dimethyl-propyl)-3-methoxy-2-methyl-benzamide (X, R1=2-Me-3-MeO—Ph, R2=i-Pr, R3=Me, 285 mg, 1.1 mmol) in CH2Cl2 (10 mL) at room temperature was added Dess-Martin periodinane solution (15% by weight, 2.4 mL, ca. 1.1 mmol). The mixture was stirred at room temperature for 4 h and poured into saturated aqueous NaHCO3 (50 mL). Solid Na2S2O3 (2.13 g, 8.6 mmol) was added and the mixture was stirred for 0.5 h. The mixture was extracted with ether (150 mL). The ether extract was washed with saturated aqueous NaHCO3 (50 mL), dried and evaporated under reduced pressure to afford N-(1-formyl-1,2-dimethyl-propyl)-3-methoxy-2-methyl-benzamide (293 mg) as an oil. 1H NMR (CDCl3) δ(ppm): 0.98 (d, J=6.6 Hz, 3H), 1.04 (d, J=6.6 Hz, 3H), 1.51 (s, 3H), 2.27 (s, 3H), 2.29 (m, 1H), 3.84 (s, 3H), 6.30 (br s, 1H), 6.91 (m, 1H), 6.96 (m, 1H), 7.18 (m, 1H), 9.60 (s, 1H).

reactant | N-(1-hydroxymethyl-1,2-dimethyl-propyl)-3-methoxy-2-methyl-benzamide | 1.1 mmol, 285 mg | OCC(C(C)C)(C)NC(C1=C(C(=CC=C1)OC)C)=O | C15H23NO3
reactant | Dess-Martin periodinane | ca. 1.1 mmol, 2.4 mL | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | 8.6 mmol, 2.13 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(1-formyl-1,2-dimethyl-propyl)-3-methoxy-2-methyl-benzamide | 293 mg | C(=O)C(C(C)C)(C)NC(C1=C(C(=CC=C1)OC)C)=O | C15H21NO3
